US06307054B1
A 3-neck 22 L flask equipped with a temperature probe with a chart recorder, mechanical stirrer, a Dean-Stark apparatus and a reflux condenser is charged with 4,6-dihydroxy nicotinic acid (88 %, 2.0 Kg, 12.81 mol), phosphoric acid (85%. 6 L, 103.15 mol). The off gases from the condenser are scrubbed by bubbling into 50% aqueous NaOH. The suspension is heated until a sufficient amount of water has been removed (about 1.2 L), i.e., dehydration of the phosphoric acid. Without the dehydration of the phosphoric acid, the carboxylation does not occur. For the internal temperature to reach 210° C.±5° C., a mantle temperature of 290° C. is applied over an elapsed time of 3.5 hours. After being stirred for 4-5 hours at that temperature, the disappearance of the starting material is confirmed by HPLC. The reaction mixture is then allowed to cool down to a temperature of less than 100° C., at which point acetic acid (6 L, 104.81 mol) is added and the temperature is maintained at 90° C. To this mixture is added nitric acid (485 mL, 12.11 mol) at a constant rate (5-6 mL/minute) until HPLC shows no more 4,6-dihydroxy nicotinic acid present. Water (6 L, 333.3 mol) is then added to the reaction and heating is stopped. A yellow solid starts appearing at a temperature of less than 80° C. and is allowed to precipitate with stirring overnight. Filtration in a scintered glass funnel (course porosity) yields a yellow solid which is then washed with 2.5 L of isopropyl alcohol. The resulting cake is air-dried for 48 hours and then put in a drying oven under vacuum (20 in. Hg with a air bleed) at 50° C. for 3 days. 2,4-dihydroxy-3-nitropyridine (1.050 Kg) is obtained in 60% yield.

reactant | 4,6-dihydroxy nicotinic acid | 12.81 mol, 2.0 Kg | OC1=CC(=NC=C1C(=O)O)O | C6H5NO4
reactant | phosphoric acid | 103.15 mol, 6 L | P(O)(O)(O)=O | H3O4P
reactant | acetic acid | 104.81 mol, 6 L | C(C)(=O)O | C2H4O2
reactant | nitric acid | 12.11 mol, 485 mL | [N+](=O)(O)[O-] | HNO3
reactant | Water | 333.3 mol, 6 L | O | H2O
product | 2,4-dihydroxy-3-nitropyridine | 1.050 Kg, 60% yield | OC1=NC=CC(=C1[N+](=O)[O-])O | C5H4N2O4
